data/pmechdb/original/mc_train_fold0/raw/train.txt
C[Si:20](C)(C)Cl.[OH2:10]>>C[Si-:20](C)(C)([OH2+:10])Cl 10=20,
[H:20][C:21]1(C=CC=C[CH+:22]1)C2(CCCCC2)N3CCCCC3.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CCC(CC1)([C:21]2=[CH:22]C=CC=C2)N3CCCCC3 10=20;20,21=21,22
CC[OH+:21][C:20](CCC(=O)NC)([OH:10])OC>>CC[OH:21].CNC(=O)CC[C:20](=[OH+:10])OC 10=20;20,21=21
CCN(CC)[C:20](=[OH+:21])C.CC[OH:10]>>CCN(CC)[C:20](C)([OH:21])[OH+:10]CC 10=20;20,21=21
[H:20][O+:21](CC1=CC2=C(C=CC=C2)C=C1)P(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)N(C(=O)OCC)NC(=O)OCC.C(CC=C(F)F)CC(=O)[O-:10]>>[H:20][O:10]C(=O)CCCC=C(F)F.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CC4=CC5=C(C=CC=C5)C=C4 10=20;20,21=21
CC(C)C[CH:20](CC1CCCCC1)[O:21]S(=O)Cl.C1COCC[O:10]1.CC(C)CC(CC1CCCCC1)[OH2+].[Cl-]>>CC(C)C[CH:20](CC1CCCCC1)[O+:10]2CCOCC2.[O-:21]S(=O)Cl.CC(C)CC(CC1CCCCC1)[OH2+].[Cl-] 10=20;20,21=21
CCC(C1=C(C=CC=C1)[C:20](=[O:21])C#N)[O-:10].[Na+]>>CCC1C2=C(C=CC=C2)[C:20]([O:10]1)(C#N)[O-:21].[Na+] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[CH+:22]1)C(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[C:21]1=[CH:22]C=CC=C1 10=20;20,21=21,22
CC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)C>>CC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[B-](OC(C[C+:20]([CH2:10][Si-:11](C)(C)(C)[O+](CC)CC)C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F>>[B-](OC(C[C:20](=[CH2:10])C(C)COCC1=CC=C(C=C1)OC)C2C(O2)CC(=C)Br)(F)(F)F.CC[O+](CC)[Si:11](C)(C)C 10,11=10,20
[H:20][O:21]C(=O)C1=CC=C(C=C1)CBr.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CCCCCCC1CCC(C(=O)O1)O>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC(=CC=C1CBr)C(=O)[O-:21].CCCCCCC1CCC(C(=O)O1)O 10=20;20,21=21
CCO[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCO[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:20][O+:21](C(C1C(CC=CC1=O)C)C2=CCCN3C2CCC3=O)I4(C5=C(C=CC=C5)C(=O)O4)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1CC=CC(=O)C1C(C2=CCCN3C2CCC3=O)[O:21]I4(C5=C(C=CC=C5)C(=O)O4)(OC(=O)C)OC(=O)C 10=20;20,21=21
CCCCCC(C[C:10]#[C:11]CC)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCCC1C[C:10](=[C+:11]CC)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
CCC1(CCCC2=C([C:20]1([OH:21])[O-:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>CCC1(CCCC2=C([C:20]1=[O:10])C=CC=C2)C(=O)C(C)(C)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21
CC1=CC=C(C=C1)[CH:20]([C:10](=[C:11](CC(C)(C)C)[OH:12])C#N)[NH+:21]2CCCCC2.C1CCNCC1>>CC1=CC=C(C=C1)[CH:20]=[C:10](C#N)[C:11](=[OH+:12])CC(C)(C)C.C1CC[NH:21]CC1.C1CCNCC1 10,11=10,20;20,21=21;12=11
C1CC[C:20](CC1)([N:10]2CCOCC2)[OH:21].C1COCCN1.C1=CC=CC=C1>>C1CC[C:20](=[N+:10]2CCOCC2)CC1.[OH-:21].C1COCCN1.C1=CC=CC=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C(=O)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CO[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CC(C)[O+](C(CCC1=CC=CC=C1)O[Si](C)(C)C)[Si:20](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:10].C[Si](C)(C)CC=C>>CC(C)[O+](C(CCC1=CC=CC=C1)O[Si](C)(C)C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C(F)(F)F.C[Si](C)(C)CC=C 10=20,
CC(C[OH:10])[O+:21]=[CH:20]C1=CC=C(C=C1)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O>>CC1C[OH+:10][CH:20]([O:21]1)C2=CC=C(C=C2)[N+](=O)[O-].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1.O 10=20;20,21=21
COC1C=C(CCC1(C(=O)OC)NC(=O)C2=CC=CC=C2)O[Si:20](C)(C)C.[F-:10].O.[Na+]>>COC1C=C(CCC1(C(=O)OC)NC(=O)C2=CC=CC=C2)O[Si-:20](C)(C)(C)[F:10].O.[Na+] 10=20,
[H:20][Cl:21].COC1(CCCC[O:10]1)O>>[H:20][O+:10]1CCCCC1(O)OC.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(C(C1=CC=CC=C1)O)(O)O.CC[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]CC.CC[O:21]C(C(C1=CC=CC=C1)O)(O)O.OS(=O)(=O)[O-] 10=20;20,21=21
CCC[NH:10]CCC.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CCC[NH+:10](CCC)[CH2:20]C1=CC=C(C=C1)C#N.[Br-:21] 10=20;20,21=21
[H:20][OH+:21]C(CC)(N)O.[OH2:10]>>CCC(N)(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][CH:21](C#N)C#N.[H:10][Na:11]>>[CH-:21](C#N)C#N.[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C(Cl)(Cl)Cl.COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)[O:10]CC4C(CCO4)OC(=O)CN>>[H:20][O+:10](CC1C(CCO1)OC(=O)CN)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)C4=CC=C(C=C4)OC.C(=O)(C(Cl)(Cl)Cl)[O-:21] 10=20;20,21=21
[H:20][Cl:21].CCOP(=O)(C(C)C(=O)CC1CCCC12OCC[O:10]2)OCC.CCO.O>>[H:20][O+:10]1CCOC12CCCC2CC(=O)C(C)P(=O)(OCC)OCC.[Cl-:21].CCO.O 10=20;20,21=21
C[CH:10]=[O+:11][Ti-](Cl)(Cl)(Cl)Cl>>C[CH+:10][O:11][Ti-](Cl)(Cl)(Cl)Cl 10,11=11
CCCC(C(C)CC(=O)N(C)CC)[N:10]=[N:20][OH2+:21]>>CCCC(C(C)CC(=O)N(C)CC)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
CCCC(=[O+:11][AlH-:10](CC(C)C)CC(C)C)CCC>>CCCC(=[O:11])CCC.CC(C)C[AlH:10]CC(C)C 10,11=11
CCCCC1[CH:20]=[N+:21](C=CC1=O)S(=O)(=O)C2=CC=C(C=C2)C.C[Si](C)(C)C[C:11]#[CH:10]>>CCCCC1[CH:20]([N:21](C=CC1=O)S(=O)(=O)C2=CC=C(C=C2)C)[CH:10]=[C+:11]C[Si](C)(C)C 10,11=10,20;20,21=21
